US05360808
1-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester
1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester (0.985 g, 5.0 mmol) was reacted with 5-chloro-2-methoxybenzoyl chloride (1.04 g, 5.1 mmol) in dichloromethane (25 ml) and pyridine (10 ml). After an aqueous work-up, purification via flash column chromotography (silica gel, 8% methanol/dichloromethane) gave the product, MP: 149°-150° C.

reactant | 1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | 5.0 mmol, 0.985 g | COC(=O)C1=CN(C(C=C1)=O)CCN | C9H12N2O3
reactant | 5-chloro-2-methoxybenzoyl chloride | 5.1 mmol, 1.04 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CN(C(C=C1)=O)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C17H17ClN2O5
